US09315491B2
5-Methoxy-pyrimidine-2,4-diol
A mixture of methyl methoxylacetate (15 ml, 1.0 eq) and ethyl formate (12.18 ml, 1.0 eq) was added dropwise to slurry of sodium methoxide (8.17 g, 1.0 eq) in toluene (100 ml) at ice both. After dropping at room temperature and stirring overnight, the resulting solution was dried in vacuo. Then a mixture of residue, urea (9.09 g, 1.0 eq) and NaOMe (4.10 g, 0.5 eq) in EtOH (100 ml) was refluxed at 110° C. for 4 hrs. After the solvent was dried in vacuo, water and conc. HCl solution (5<pH<4) were added. After formation of white precipitate, the mixture was filtered and dried solid in vacuo. A product was obtained as a white solid (5.14 g, 23.88%)

reactant | methyl methoxylacetate | 15 ml, 1.0 eq | O(C)CC(=O)OC | C4H8O3
reactant | ethyl formate | 12.18 ml, 1.0 eq | C(=O)OCC | C3H6O2
reactant | sodium methoxide | 8.17 g, 1.0 eq | C[O-].[Na+]
reactant | urea | 9.09 g, 1.0 eq | NC(=O)N | CH4N2O
reactant | NaOMe | 4.10 g, 0.5 eq | C[O-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 100 ml | CCO | C2H6O
product | 5-Methoxy-pyrimidine-2,4-diol | 5.14 g, 23.88% | COC=1C(=NC(=NC1)O)O | C5H6N2O3
